US07037929B1
Preparation of N-(5-isopropyl-1,3-thiazol-2-yl)-butanamide
Triethylamine (0.97 ml; 6.34 mmol) and butanoyl chloride (0.52 ml; 5.07 mmol) were added in this order to a solution of 2-amino-5-isopropyl-1,3-thiazole (0.6 g; 4.23 mmol) in dichloromethane (8 ml), cooled to −5° C. The reaction mixture was stirred at −5° C. for 2 hours and then warmed to room temperature. After additional 4 hours, the organic layer was washed with water, saturated sodium bicarbonate, 1N hydrochloric acid, brine, dried over sodium sulfate and evaporated. The residue was recrystallized from cyclohexane to yield 0.45 g (50%) of the title compound as a colourless solid (m.p. 95–97° C.)

reactant | Triethylamine | 6.34 mmol, 0.97 ml | C(C)N(CC)CC | C6H15N
reactant | butanoyl chloride | 5.07 mmol, 0.52 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | 2-amino-5-isopropyl-1,3-thiazole | 4.23 mmol, 0.6 g | NC=1SC(=CN1)C(C)C | C6H10N2S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-(5-isopropyl-1,3-thiazol-2-yl)-butanamide | 0.45 g, 50% | C(C)(C)C1=CN=C(S1)NC(CCC)=O | C10H16N2OS
